US05001105
Preparation of 1,1-bis(1-ethyl-2-methylindole-3-yl)ethylene [Table 2, Entry 2]
A mixture of 1-ethyl-2-methylindole (15.9 g, 0.1 mole) and acetyl chloride (2.0 g, 0.025 mole) and acetic anhydride (15 ml) was stirred at 50°-52° C. for 8 hours. Then, the reaction mixture was cooled to room temperature and poured into ice, water and sodium hydroxide (10%, 50 ml). After stirring for 20 minutes, the precipitated solid was filtered off, washed with water, refluxed with methanol for 1 hour and cooled. The solid was filtered, washed with methanol and dried. Yield of the product: 16.5 g (96%), pale yellow powder, m.p.: 179°-182° C. IR(KBr) spectrum was identical to that of the product in Example 1.

reactant | 1-ethyl-2-methylindole | 0.1 mole, 15.9 g | C(C)N1C(=CC2=CC=CC=C12)C | C11H13N
reactant | acetyl chloride | 0.025 mole, 2.0 g | C(C)(=O)Cl | C2H3ClO
reactant | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 1,1-bis(1-ethyl-2-methylindole-3-yl)ethylene | C(C)N1C(=C(C2=CC=CC=C12)C(=C)C1=C(N(C2=CC=CC=C12)CC)C)C | C24H26N2
